US05442055
1.0 g of (3R, 4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2azetidinone, 1.8 g of 3-(2-bromopropionyl)-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one and 0.68 g of zinc powders are added to 15 ml of tetrahydrofuran and the mixture is refluxed for 30 minutes. After cooling, the reaction mixture is poured into 0.2M phosphate buffer (pH 7.0) and the mixture is extracted with methylene chloride. The extract is washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate =3:1)to obtain 1.3 g of 3-{(2R)-2-[(3S, 4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one.

reactant | (3R, 4R)-4-acetoxy-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2azetidinone | 1.0 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | 3-(2-bromopropionyl)-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one | 1.8 g | BrC(C(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O)C | C16H18BrNO3
reactant | phosphate | 0.2M, pH 7.0 | P(=O)([O-])([O-])[O-]
catalyst | zinc | 0.68 g | [Zn] | Zn
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-{(2R)-2-[(3S, 4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one | 1.3 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O)C)=O | C27H40N2O5Si
